US09238647B2
Step B: tert-butyl 2-chloro-6-hydrazinoisonicotinate
To a solution of tert-butyl 2,6-dichloroisonicotinate (11.0 g, 44.3 mmol) in ethanol (222 mL) was added hydrazine hydrate (6.46 mL, 133 mmol). The mixture was heated 75° C. After 18 h, the mixture was cooled to ambient temperature. The mixture was concentrate down to half of the volume. The solid crashed out was filtered off and the filtrate was concentrated to dryness: LC-MS [M+1]=244.1.

reactant | tert-butyl 2,6-dichloroisonicotinate | 44.3 mmol, 11.0 g | ClC=1C=C(C(=O)OC(C)(C)C)C=C(N1)Cl | C10H11Cl2NO2
reactant | hydrazine hydrate | 133 mmol, 6.46 mL | O.NN
solvent | ethanol | 222 mL | C(C)O | C2H6O
product | tert-butyl 2-chloro-6-hydrazinoisonicotinate | ClC=1C=C(C(=O)OC(C)(C)C)C=C(N1)NN | C10H14ClN3O2
